US07560586B2
2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid hydrochloride salt
A solution of 2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid methyl ester (30 mg, 0.05 mmol) in DMF (9 mL) was treated with LiCl (20 mg, 0.46 mmol). The resulting reaction mixture was heated to reflux overnight and concentrated. The crude product was purified by HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A:acetonitrile B:water, A: 60 to 100% during 10 min, UV detection at 254 nm) to give the title compound, the free amine as an oil (15 mg, 45%). To a solution of the free amine in diethyl ether was added HCl in diethyl ether (1.0 M) to precipitate the amine salt. The suspension was filtered and dried to give the title compound as a white solid. MS m/e 638.2 (M+H)+.

reactant | 2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid methyl ester | 0.05 mmol, 30 mg | COC(C(CC)(CC)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C38H41ClF3NO3
reactant | LiCl | 0.46 mmol, 20 mg | [Li+].[Cl-]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-2-ethyl-butyric acid hydrochloride salt | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C(C(=O)O)(CC)CC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C37H39ClF3NO3.ClH/c1-3-36(4-2,35(43)44)30-19-12-20-31(24-30)45-23-13-22-42(25-29-18-11-21-33(34(29)38)37(39,40)41)26-32(27-14-7-5-8-15-27)28-16-9-6-10-17-28;/h5-12,14-21,24,32H,3-4,13,22-23,25-26H2,1-2H3,(H,43,44);1H
